US07569536B2
Hexahydro-1H-azepine (682 μl, 6.05 mmol, commercially available product) was added at 0° C. to an N,N-dimethylformamide (DMF; 2 ml) solution of 1-fluoro-2-nitro-4-(trifluoromethyl)benzene (506 mg, 2.42 mmol, commercially available product). The resulting mixture was warmed to room temperature and stirred for one hour. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20 g, hexane/ethyl acetate=7/1). Thus, hexahydro-1-[2-nitro-4-(trifluoromethyl)phenyl]-1H-azepine (680 mg, 97.5%) was yielded as an orange-colored solid.

reactant | Hexahydro-1H-azepine | N1CCCCCC1 | C6H13N
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | 1-fluoro-2-nitro-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
solvent | Water | O | H2O
product | hexahydro-1-[2-nitro-4-(trifluoromethyl)phenyl]-1H-azepine | 680 mg, 97.5% | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CCCCCC1 | C13H15F3N2O2
